US06768019B2
Preparation of (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one O-benzyl Oxime
(E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one oxime (25 mg, 0.076 mmol), benzyl bromide (0.022 ml, 0.18 mmol) and potassium carbonate (0.032 g, 0.23 mmol) were added into dimethylformamide (1.0 ml). Then, the solution was stirred at 95-100° C. for 48 hours, and cooled to room temperature. Again, water and dichloromethane were added, and an organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to remove organic solvent. The residue was purified through silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/3, v/v). As a result, 26 mg of the present compound (productive yield 82%) was obtained as a white solid crystal.

reactant | (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one oxime | 0.076 mmol, 25 mg | CS(=O)(=O)C1=CC=C(C=C2/C(/CCC3=CC=CC=C23)=N/O)C=C1 | C18H17NO3S
reactant | benzyl bromide | 0.18 mmol, 0.022 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.23 mmol, 0.032 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one O-benzyl Oxime | 26 mg, yield 82% | C(C1=CC=CC=C1)O\N=C/1\C(C2=CC=CC=C2CC1)=CC1=CC=C(C=C1)S(=O)(=O)C | C25H23NO3S
